US05280032
2-[2-(N,N-dimethylamino)ethoxy]-1-(1naphthyl)ethanol hydrochloride was reacted with acetic anhydride in pyridine in the presence of triethylamine to obtain oily 1-acetoxy-2-[2-(N,N-dimethylamino)ethoxy]-1-(1-naphthyl)ethane (compound No. 300).

reactant | 2-[2-(N,N-dimethylamino)ethoxy]-1-(1naphthyl)ethanol hydrochloride | Cl.CN(C)CCOCC(O)C1=CC=CC2=CC=CC=C12
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-acetoxy-2-[2-(N,N-dimethylamino)ethoxy]-1-(1-naphthyl)ethane | C(C)(=O)OC(COCCN(C)C)C1=CC=CC2=CC=CC=C12 | C18H23NO3
